US06559155B1
1-(1-Undecyl)-2-(4-fluorobenzyl)thio-5-(1-(dimethylaminocarbonylmethyl)-2-oxopyrimid-5-ylmethyl)pyrimidin4-one
A mixture of 1-undecyl-2-(4-fluorobenzyl)thio-5-(1-(carboxymethyl)-2-oxopyrimid-5-ylmethyl)pyrimidin-4-one, dimethylamine hydrochloride (0.02 g), diisopropylethylamine (0.045 ml), hydroxybenzotriazole (0.005 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.045 g) in dry methylene chloride were stirred together for 24 h and diluted with 3% methanol in methylene chloride and 5% aqueous potassium carbonate. The organic layer was added directly to a SepPak cartridge (SiO2, 10 g) and eluted with 0-20% methanol in ethyl acetate to give the desired product (0.085 g). 1H-NMR (CDCl3) δ0.8-0.95 (3H,m), 1.15-1.4 (16H,m), 1.6-1.85 (2H,m), 2.98 (3H,s), 3.13 (3H,s), 3.49 (2H,s), 3.77 (2H,t), 4.46 (2H,s), 4.74 (2H,s), 6.9-7.1 (2H,m), 7.14 (1H,s), 7.3-7.45 (2H,m), 7.78 (1H,bd), 8.49 (1H,bd); MS (APCI+) found (M+1)=584; C31H42FN5O3S requires 583.

reactant | 1-undecyl-2-(4-fluorobenzyl)thio-5-(1-(carboxymethyl)-2-oxopyrimid-5-ylmethyl)pyrimidin-4-one | C(CCCCCCCCCC)N1C(=NC(C(=C1)CC=1C=NC(N(C1)CC(=O)O)=O)=O)SCC1=CC=C(C=C1)F | C29H37FN4O4S
reactant | dimethylamine hydrochloride | 0.02 g | Cl.CNC
reactant | diisopropylethylamine | 0.045 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydroxybenzotriazole | 0.005 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.045 g | Cl.CN(CCCN=C=NCC)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 1-(1-Undecyl)-2-(4-fluorobenzyl)thio-5-(1-(dimethylaminocarbonylmethyl)-2-oxopyrimid-5-ylmethyl)pyrimidin4-one | 0.085 g | C(CCCCCCCCCC)N1C(=NC(C(=C1)CC=1C=NC(N(C1)CC(=O)N(C)C)=O)=O)SCC1=CC=C(C=C1)F | C31H42FN5O3S
